US06593342B1
c) 5,7-Dimethoxy-3-phenyl-1,2-dihydro-2-quinolinone (Compound 34)
1.52 g (9.9 mmol) of 3,5-dimethoxyaniline and 2.30 g (12 mmol, 1.2 eq) of ethyl (α-formylphenylacetate are mixed together in a round-bottomed flask under a nitrogen atmosphere. The medium is stirred for 1 h at room temperature. A solution of trimethylsilyl polyphosphate (PPSE), freshly prepared from 4.56 g (0.03 mol) of P2O5, 10.9 ml (0.17 mol) of hexamethyldisiloxane and 50 ml of 1,2-dichloroethane, is added. The final mixture is maintained at 100° C. for 2 h. The heating is stopped and ice is then added to the reaction mixture. This mixture is then neutralized by addition of saturated sodium hydrogen carbonate solution (portionwise addition, exothermic reaction). The product is extracted with dichloromethane (large amount to be used). The organic phase is dried over MgSO4 and then evaporated under reduced pressure. The residue is taken up in ethyl acetate, which causes precipitation of the desired compound. The final product is isolated by filtration through a sinter funnel. After partial concentration of the filtrate, the final product reprecipitates. The solid is reisolated by filtration, this operation being repeated several times. Compound 34 (444 mg) is obtained in a yield of 16%.

reactant | 3,5-dimethoxyaniline | 9.9 mmol, 1.52 g | COC=1C=C(N)C=C(C1)OC | C8H11NO2
reactant | α-formylphenylacetate | C(=O)C(C(=O)[O-])C1=CC=CC=C1
reactant | trimethylsilyl polyphosphate | C[Si](C)(C)OP(=O)=O | C3H9O3PSi
reactant | P2O5 | 0.03 mol, 4.56 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | hexamethyldisiloxane | 0.17 mol, 10.9 ml | C[Si](O[Si](C)(C)C)(C)C | C6H18OSi2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | 5,7-Dimethoxy-3-phenyl-1,2-dihydro-2-quinolinone | yield of 16% | COC1=C2C=C(C(NC2=CC(=C1)OC)=O)C1=CC=CC=C1 | C17H15NO3
